US05994368
To a solution of 4-hydroxybenzaldehyde (10 g) and potassium carbonate (17 g) in dimethylformamide (100 ml) was added ethyl bromoacetate (15 g) under ice-cooling, and the mixture was stirred for 2 hours at ambient temperature. Water was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography (ethyl acetate:n-hexane, 1:4, V/V) to give 4-(ethoxycarbonylmethoxy)benzaldehyde (16 g).

reactant | 4-hydroxybenzaldehyde | 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 15 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(ethoxycarbonylmethoxy)benzaldehyde | 16 g | C(C)OC(=O)COC1=CC=C(C=O)C=C1 | C11H12O4
